US06080886
A solution of benzoic acid (122 mg, 1 mmol) in CH2Cl2 (5.0 mL) was added to diphenylaminosulfur trifluoride (771 mg, 3.0 mmol ) under N2 and stirred for 16 h at room temperature. After work-up as above benzoyl fluoride (124 mg, quantitative yield) was obtained. The product was identified by g.c.m.s. M+ =124

reactant | benzoic acid | 1 mmol, 122 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | diphenylaminosulfur trifluoride | 3.0 mmol, 771 mg | C1(=CC=CC=C1)N(C1=CC=CC=C1)S(F)(F)F | C12H10F3NS
solvent | CH2Cl2 | 5.0 mL | C(Cl)Cl | CH2Cl2
product | benzoyl fluoride | 124 mg, quantitative yield | C(C1=CC=CC=C1)(=O)F | C7H5FO
